US06884758B2
2-Amino-4-(1-fluoro-1-methylethyl)-6-(1-phenyl-4-cyclopropyl-4-butylamino)-1,3,5-triazine (see Example 22-12, Table 22)
1.52 g (0.008 mol) of 2-amino-4-chloro-6-(1-fluoro-1-methylethyl)-1,3,5-triazine and 1.64 g (0.012 mol) of potassium carbonate are introduced into 30 ml of acetonitrile. 1.50 g (0.008 mol) of 4-phenyl-1-cyclopropyl-1-butylamine, dissolved in 10 ml of acetonitrile, are added dropwise to this solution. The mixture is refluxed for three hours. The solid components are then filtered off with suction and the filtrate is evaporated on a rotary evaporator. The residue is purified by column chromatography (eluant: methyl acetate). This gives 2.36 g (86% of theory) of 2-amino-4-(1-fluoro-1-methylethyl)-6-(1-phenyl-4-cyclopropyl-4-butylamino)-1,3,5-triazine.

reactant | 2-amino-4-chloro-6-(1-fluoro-1-methylethyl)-1,3,5-triazine | 0.008 mol, 1.52 g | NC1=NC(=NC(=N1)Cl)C(C)(C)F | C6H8ClFN4
reactant | potassium carbonate | 0.012 mol, 1.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-phenyl-1-cyclopropyl-1-butylamine | 0.008 mol, 1.50 g | C1(=CC=CC=C1)CCCC(C1CC1)N | C13H19N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 2-Amino-4-(1-fluoro-1-methylethyl)-6-(1-phenyl-4-cyclopropyl-4-butylamino)-1,3,5-triazine | NC1=NC(=NC(=N1)C(C)(C)F)NC(CCCC1=CC=CC=C1)C1CC1 | C19H26FN5
